US07122546B2
Step 3. Preparation of 3-chloromethyl-4,6-diethoxy-pyridazine
Excess SOCl2 is added to a stirred solution of (4,6-diethoxy-pyridazin-3-yl)-methanol (174 mg, 0.88 mmol) in CH2Cl2 (4 mL). The reaction mixture is stirred at room temperature for 4 hours. The solvent is then removed in vacuo; toluene (4 mL) is added and evaporated to dryness. Flash column chromatography purification (silica gel, eluted with 3:1 Hexane, EtOAc) of the residue provides the title compound as a clear oil. H1 NMR δ (CDCl3) 6.28(s, 1H), 4.78 (s, 2H), 4.54 (q, 2H, J=7.2 Hz), 4.11 (q, 2H, J=7.2 Hz), 1.48 (t, 3H, J=7.2 Hz), 1.41 (t, 3H, J=7.2 Hz).

reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | (4,6-diethoxy-pyridazin-3-yl)-methanol | 0.88 mmol, 174 mg | C(C)OC1=C(N=NC(=C1)OCC)CO | C9H14N2O3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-chloromethyl-4,6-diethoxy-pyridazine | ClCC=1N=NC(=CC1OCC)OCC | C9H13ClN2O2
